US06448242B1
Preparation of 1,3-bis[4-[(E,E)-5-(4-tert-butyl-2-methoxyphenyl)-2,4-pentadienoyl]-1-piperazinyl]propane dihydrochloride
Concentrated hydrochloric acid (0.025 ml; 0.30 mmol) was added to a solution of 1,3-bis[4-[(E,E)-5-(4-tert-butyl-2-methoxyphenyl)-2,4-pentadienoyl]-1-piperazinyl]-propane (49 mg; 0.070 mmol) in ethanol (5 ml) and the reaction mixture was concentrated under reduced pressure. A process of adding ethanol (10 ml) to the residue and concentrating the mixture under reduced pressure was performed twice to obtain the title compound as a pale yellow amorphous powder.

reactant | hydrochloric acid | 0.30 mmol, 0.025 ml | Cl | ClH
reactant | 1,3-bis[4-[(E,E)-5-(4-tert-butyl-2-methoxyphenyl)-2,4-pentadienoyl]-1-piperazinyl]-propane | 0.070 mmol, 49 mg | C(C)(C)(C)C1=CC(=C(C=C1)/C=C/C=C/C(=O)N1CCN(CC1)CCCN1CCN(CC1)C(\C=C\C=C\C1=C(C=C(C=C1)C(C)(C)C)OC)=O)OC | C43H60N4O4
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1,3-bis[4-[(E,E)-5-(4-tert-butyl-2-methoxyphenyl)-2,4-pentadienoyl]-1-piperazinyl]propane dihydrochloride | Cl.Cl.C(C)(C)(C)C1=CC(=C(C=C1)/C=C/C=C/C(=O)N1CCN(CC1)CCCN1CCN(CC1)C(\C=C\C=C\C1=C(C=C(C=C1)C(C)(C)C)OC)=O)OC | InChI=1S/C43H60N4O4.2ClH/c1-42(2,3)36-20-18-34(38(32-36)50-7)14-9-11-16-40(48)46-28-24-44(25-29-46)22-13-23-45-26-30-47(31-27-45)41(49)17-12-10-15-35-19-21-37(43(4,5)6)33-39(35)51-8;;/h9-12,14-21,32-33H,13,22-31H2,1-8H3;2*1H/b14-9+,15-10+,16-11+,17-12+;;
